US05196548
(2S, 4R)-1-(4-Toluenesulfonyl)-2-(chloromethyl)-4-(4-toluenesulfonyloxy)-pyrrolidine
To an ice-cold solution of 170 g (626.5 mmol) of (2R, 4S)-2-hydroxymethyl-4-hydroxy-1-(4-toluenesulfonyl)-pyrrolidine in 0.5 l of pyridine was added 250 g (1.32 mol) of p-toluenesulfonyl chloride in one portion and the reaction was warmed to 50° C. After 6 hours the mixture was cooled with an ice bath and 3 l of 10% aqueous hydrogen chloride solution was carefully added. A white precipitate formed which was isolated via filtration and then taken in 1 l of ethanol and heated to reflux for 30 minutes. The mixture was then cooled and the solids were filtered and dried under reduced pressure to give 195 g of product in 70% yield. M.P.=145°-146° C.

reactant | (2R, 4S)-2-hydroxymethyl-4-hydroxy-1-(4-toluenesulfonyl)-pyrrolidine | 626.5 mmol, 170 g | OC[C@@H]1N(C[C@H](C1)O)S(=O)(=O)C1=CC=C(C=C1)C | C12H17NO4S
reactant | p-toluenesulfonyl chloride | 1.32 mol, 250 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrogen chloride | 3 l | Cl | ClH
solvent | pyridine | 0.5 l | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 1 l | C(C)O | C2H6O
product | (2S, 4R)-1-(4-Toluenesulfonyl)-2-(chloromethyl)-4-(4-toluenesulfonyloxy)-pyrrolidine | 195 g, 70% yield | C1(=CC=C(C=C1)S(=O)(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)CCl)C | C19H22ClNO5S2
